US06949543B2
A chloroform solution of ethyl [(4-methoxyphenyl)-(tetrahydrothiopyran-4-carbonyl)amino]acetate was stirred by adding 3-chloroperbenzoic acid (>65%; MCPBA). Sodium bicarbonate aqueous solution was added to the reaction mixture, the organic layer was separated, washed and dried, and then the solvent was evaporated under a reduced pressure. By purifying the thus obtained crude product by SCG, ethyl [(4-methoxyphenyl)-(1-oxo-tetrahydrothiopyran-4-carbonyl)amino]acetate (pale brown foam) was obtained.

reactant | ethyl [(4-methoxyphenyl)-(tetrahydrothiopyran-4-carbonyl)amino]acetate | COC1=CC=C(C=C1)N(C(=O)C1CCSCC1)CC(=O)OCC | C17H23NO4S
reactant | 3-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl [(4-methoxyphenyl)-(1-oxo-tetrahydrothiopyran-4-carbonyl)amino]acetate | COC1=CC=C(C=C1)N(C(=O)C1CCS(CC1)=O)CC(=O)OCC | C17H23NO5S
